US04093812
Heat 40 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide together with 290 ml of thionyl chloride and 1 ml of dimethylformamide for 16 hours at boiling point. Cool the resulting solution, draw off the formed precipitate and wash it with thionyl chloride and with carbon tetrachloride to obtain an 89% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride [m.p. 208° to 210° C (from dioxane)].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxamide | 40 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)N)C1=CC=CC=C1 | C14H10N4O4
reactant | thionyl chloride | 290 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride | 89% yield | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)Cl)C1=CC=CC=C1 | C14H8ClN3O4
